US04684656
(B) 1, 2, 3, 6-Tetrahydro-4-methyl-6-(3-nitrophenyl)-2-oxo -1-(phenylsulfonyl)-5-pyrimidinecarboxylic acid, ethyl ester
A solution of 1, 2, 3, 6-tetrahydro-4-methyl-6-(3-nitrophenyl)-2-methoxy-1-(phenylsulfonyl)-5 -pyrimidinecarboxylic acid, ethyl ester (1.49 g, 3.24 mmol) in tetrahydrofuran-methanol (20 ml each) was treated with 5N hydrochloric acid (5.0 ml) and stirred at room temperature overnight. The reaction mixture was evaporated and partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium bicarbonate and saturated sodium chloride. Flash chromatography (acetone/hexanes (1:5)) and crystallization from dichloromethane/isopropyl ether gave the title compound as white crystals (589 mg), melting point 187°-188° C. 3 Analysis Calc'd. for C20H19N3O7S: C, 53.93; H, 4.30; N, 9.43; S, 7.20. Found: C, 53.71; H, 4.19; N, 9.27; S, 7.13.

reactant | 1, 2, 3, 6-tetrahydro-4-methyl-6-(3-nitrophenyl)-2-methoxy-1-(phenylsulfonyl)-5 -pyrimidinecarboxylic acid, ethyl ester | 3.24 mmol, 1.49 g | CC=1NC(N(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1)OC | C21H23N3O7S
reactant | hydrochloric acid | 5N, 5.0 ml | Cl | ClH
solvent | tetrahydrofuran-methanol | 20 ml | O1C(CCC1)CO | C5H10O2
product | 1, 2, 3, 6-Tetrahydro-4-methyl-6-(3-nitrophenyl)-2-oxo -1-(phenylsulfonyl)-5-pyrimidinecarboxylic acid, ethyl ester | 589 mg | CC=1NC(N(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1)=O | C20H19N3O7S
